US05496853
Synthesis of 1-[(1-phenylcyclopentyl)methyl-3-(2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl)urea (309)
A 60 mg amount of (1-phenycyclopentyl)methylamine was added to a solution of 70 mg of 2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl isocyanate in 2 ml of ethyl acetate, and the mixture was stirred at room temperature for 15 hrs. The solvent was removed by evaporation under reduced pressure, and the residue was subjected to recrystallization to provide 65 mg of the intended title compound.

reactant | (1-phenycyclopentyl)methylamine | C1(=CC=CC=C1)C1(CCCC1)CN | C12H17N
reactant | 2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl isocyanate | 70 mg | CC1(OC2=C(C1)C=CC(=C2N=C=O)C)C | C12H13NO2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (1-phenylcyclopentyl)methyl-3-(2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl)urea | 65 mg | C1(=CC=CC=C1)C1(CCCC1)CNC(=O)NC1=C(C=CC=2CC(OC21)(C)C)C | C24H30N2O2
